US04579585
3-Chloro-4(1-chloromethyl-ethyl)-nitrobenzene
24 g (0.12 Mol) of 4(1-chloromethyl-ethyl)-nitrobenzene, 1 g of antimony trichloride, 50 mg of iodine and 16 mg of PCl3 are gradually warmed to 60°. Through the resulting homogeneous syrup a current of dry chlorine is passed at such a rate that the temperature inside the flask does not rise above 70°. When little more than the theoretical amount of chlorine is absorbed (5.3 g/20 minutes) the brown reaction mixture is cooled to ambient temperature and then taken up in 125 ml of toluene. The toluene solution is washed with five 150 ml portions of water, dried (Na2SO4) and evaporaed in vacuo.

reactant | 4(1-chloromethyl-ethyl)-nitrobenzene | 0.12 Mol, 24 g | ClCC(C)C1=CC=C(C=C1)[N+](=O)[O-] | C9H10ClNO2
reactant | antimony trichloride | 1 g | [Sb](Cl)(Cl)Cl
reactant | iodine | 50 mg | II | I2
reactant | PCl3 | 16 mg | P(Cl)(Cl)Cl | Cl3P
reactant | chlorine | ClCl | Cl2
product | 3-Chloro-4(1-chloromethyl-ethyl)-nitrobenzene | ClC=1C=C(C=CC1C(C)CCl)[N+](=O)[O-] | C9H9Cl2NO2
